US08278473B2
To a suspension of 0.8 g (3 mmol) of (E)-2-methyl-N-phenyl-3-(phenylthio)-2-propenamide in toluene (4 ml) was added 0.62 g (3 mmol) of phosphorus pentachloride and the mixture was stirred at room temperature for 4 hours. After concentration of the mixture under vacuum, the residue was dissolved in 35 ml of N,N-dimethylformamide [DMF] and then 793 mg (6 mmol) of a benzenethiol sodium salt was added portionwise under ice cooling. The mixture was stirred at room temperature for 2 hours. After dilution with tert-butyl methyl ether, the mixture was washed sequentially with water (three times) and saturated NaCl solution, dried over anhydrous MgSO4, and concentrated under vacuum. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=20/1) to obtain 0.4 g of phenyl 2-methyl-N-phenyl-3-(phenylthio)-2-propenimidothioate (hereinafter referred to as the present compound 1).

reactant | (E)-2-methyl-N-phenyl-3-(phenylthio)-2-propenamide | 3 mmol, 0.8 g | C/C(/C(=O)NC1=CC=CC=C1)=C\SC1=CC=CC=C1 | C16H15NOS
reactant | phosphorus pentachloride | 3 mmol, 0.62 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | benzenethiol sodium salt | 6 mmol, 793 mg | [Na].C1(=CC=CC=C1)S
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | phenyl 2-methyl-N-phenyl-3-(phenylthio)-2-propenimidothioate | 0.4 g | CC(C(=NC1=CC=CC=C1)SC1=CC=CC=C1)=CSC1=CC=CC=C1 | C22H19NS2
